US06579884B1
Synthesis of 8-(2,6-dimethylbenzylamino)-2-methoxymethyl-3-methyl-imidazo[1,2-a]pyridine
2-chloromethyl-8-(2,6-dimethylbenzylamino)-3-methylimidazo[1,2-a]pyridine (0.3 g, 0.96 mmol) was solved in methanol (20 ml) and stirred for 20 h. at room temperature and refluxed for 20 min. The solvent was evaporated under reduced pressure and the residue was dissolved in methylene chloride and washed with a bicarbonate solution. The organic layer was separated, dried (Na2SO4) and evaporated under reduced pressure. Purification of the residue by column chromatography on silica gel using diethyl ether:petroleum ether (2:1) as eluent and crystallization from diethyl ether:petroleum ether (2:1) gave 0.13 g (44%) of the desired product.

reactant | 2-chloromethyl-8-(2,6-dimethylbenzylamino)-3-methylimidazo[1,2-a]pyridine | 0.96 mmol, 0.3 g | ClCC=1N=C2N(C=CC=C2NCC2=C(C=CC=C2C)C)C1C | C18H20ClN3
reactant | methanol | 20 ml | CO | CH4O
product | 8-(2,6-dimethylbenzylamino)-2-methoxymethyl-3-methyl-imidazo[1,2-a]pyridine | 0.13 g, 44% | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)COC)C)C(=CC=C1)C | C19H23N3O
